US08168794B2
The mixture of 2-(tert-butoxycarbonylamino)-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate (1.0 equiv.) in pyridine (0.21 M) was stirred at 110° C. for 10 min in microwave. Pyridine was removed under reduced pressure. The residue was dissolved in ethyl acetate, and washed with sat NaCl. The organic was dried with MgSO4, filtered and concentrated to give 5-(3-nitropyridin-4-yl)-3,3a,7,7a-tetrahydrobenzo[d]oxazol-2(6H)-one (85%), which was used in the next step without further purification. LC/MS (m/z): MH+=262.1, Rt=0.49

reactant | 2-(tert-butoxycarbonylamino)-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate | 1.0 equiv. | CS(=O)(=O)OC1C(C=C(CC1)C1=C(C=NC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C17H23N3O7S
solvent | pyridine | 0.21 M | N1=CC=CC=C1 | C5H5N
product | 5-(3-nitropyridin-4-yl)-3,3a,7,7a-tetrahydrobenzo[d]oxazol-2(6H)-one | 85% | [N+](=O)([O-])C=1C=NC=CC1C=1CCC2C(NC(O2)=O)C1 | C12H11N3O4
